US05854273
Stage A: 2-Vinylbenzofuran
92 ml of a 1N solution of potassium tert-butoxide in tetrahydrofuran are added dropwise to a vigorously stirred mixture at 0° C. of 68.4 mmol of benzofuran-2-carboxaldehyde and 92 mmol of methyltriphenylphosphonium bromide in 200 ml of tetrahydrofuran and 150 ml of dimethylformamide. The medium is stirred for 2 h at room temperature, poured into 2 liters of ice-water and extracted with ether. After concentration of the solvents, the residue is taken up in 1 liter of petroleum ether and the precipitate is filtered off and washed with petroleum ether. The expected product is obtained by evaporation of the filtrate.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | benzofuran-2-carboxaldehyde | 68.4 mmol | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 92 mmol | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-Vinylbenzofuran | C(=C)C=1OC2=C(C1)C=CC=C2 | C10H8O
